US05153203
7-(3-Pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (Compound No. 8)
Ethyl 7-(t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3carboxylate (105 mg) was similarly treated using 0.5 ml of concentrated hydrochloric acid and 2 ml of acetic acid, whereby 38 mg of the title product was obtained.

reactant | Ethyl 7-(t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3carboxylate | 105 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)N)F | C24H29F2N3O6
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Pyrrolidinyloxy)-1-cyclopropyl-5-amino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 38 mg | Cl.N1CC(CC1)OC1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N)F | InChI=1S/C17H17F2N3O4.ClH/c18-11-13(20)10-14(12(19)16(11)26-8-3-4-21-5-8)22(7-1-2-7)6-9(15(10)23)17(24)25;/h6-8,21H,1-5,20H2,(H,24,25);1H
